US07557213B2
Preparation of 1-(6-bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-6,7-difluoro-1H-quinolin-4-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 74 mg (0.24 mmol) of 3-(3,4-dimethyl-benzoyl)-6,7-difluoro-1H-quinolin-4-one, 71 mg (0.28 mmol) of 2-bromo-6-bromomethyl-pyridine, 0.57 mL of 0.5M toluene solution of potassium bis(trimethylsilyl)amide and 2 mL of THF. Yield: 73 mg of a white solid: LC-MSD, m/z for C24H17BrF2N2O2 [M+H]+=483.4, 485.4; HPLC retention time: 2.6 min.

reactant | 3-(3,4-dimethyl-benzoyl)-6,7-difluoro-1H-quinolin-4-one | 0.24 mmol, 74 mg | CC=1C=C(C(=O)C2=CNC3=CC(=C(C=C3C2=O)F)F)C=CC1C | C18H13F2NO2
reactant | 2-bromo-6-bromomethyl-pyridine | 0.28 mmol, 71 mg | BrC1=NC(=CC=C1)CBr | C6H5Br2N
reactant | toluene | 0.5M, 0.57 mL | C1(=CC=CC=C1)C | C7H8
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-(6-bromo-pyridin-2-ylmethyl)-3-(3,4-dimethyl-benzoyl)-6,7-difluoro-1H-quinolin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(C1=CC(=C(C=C1)C)C)=O | C24H17BrF2N2O2
